US05292742
4'-[[2-Butyl-4-oxo-6-[2-(4-pentenyl)-2H-tetrazol-5-yl]-3(4H)-quinazolinyl]methyl]-[1,1'-biphenyl]2-carbonitrile
A mixture of 1.01 g of 2-butyl-6-[2-(4-pentenyl)-2H-tetrazol-5-yl]-4(1H)-quinazolinone, 1.09 g of 4'-(bromomethyl)[1,1'-biphenyl]-2-carbonitrile and 2.0 g of potassium carbonate in 100 ml of acetone is refluxed for 24 hours. The reaction mixture is filtered and the filtrate evaporated in vacuo to a residue which is purified by chromatography on silica gel by elution with 30% ethyl acetate-hexanes to give 1.5 g of the desired product as a yellow foam.

reactant | 2-butyl-6-[2-(4-pentenyl)-2H-tetrazol-5-yl]-4(1H)-quinazolinone | 1.01 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=1N=NN(N1)CCCC=C | C18H22N6O
reactant | 4'-(bromomethyl)[1,1'-biphenyl]-2-carbonitrile | 1.09 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H10BrN
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4'-[[2-Butyl-4-oxo-6-[2-(4-pentenyl)-2H-tetrazol-5-yl]-3(4H)-quinazolinyl]methyl]-[1,1'-biphenyl]2-carbonitrile | 1.5 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)C=1N=NN(N1)CCCC=C | C32H31N7O
